US04145432
To a mixture of a yellow oil (360 mg) of methyl 4-(2-chlorophenyl)-5-ethoxycarbonyl-6-diethoxymethyl-1,4-dihydropyridine-3-carboxylate in acetone (10 ml) was added 6N hydrochloric acid (0.3 ml) and the resultant mixture was stirred for 1.5 hours at room temperaature, and the acetone was removed. Water was added to the residue and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with water, dried and concentrated. The resultant orange oil (0.26 g) was crystallized and the crystals were washed with n-hexane to give yellowish-orange powder (80.7 mg) of methyl 4-(2-chlorophenyl)-5-ethoxycarbonyl-6-formyl-1,4-dihydropyridine-3-carboxylate.

reactant | methyl 4-(2-chlorophenyl)-5-ethoxycarbonyl-6-diethoxymethyl-1,4-dihydropyridine-3-carboxylate | 360 mg | ClC1=C(C=CC=C1)C1C(=CNC(=C1C(=O)OCC)C(OCC)OCC)C(=O)OC | C21H26ClNO6
reactant | hydrochloric acid | 6N, 0.3 ml | Cl | ClH
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | methyl 4-(2-chlorophenyl)-5-ethoxycarbonyl-6-formyl-1,4-dihydropyridine-3-carboxylate | 80.7 mg | ClC1=C(C=CC=C1)C1C(=CNC(=C1C(=O)OCC)C=O)C(=O)OC | C17H16ClNO5
